US07179823B1
tert-Butyl Lithium (1.7M pentane solution, 15 ml) was added slowly to a solution of 5-chloro-2-phenylpyridine (4.70 g) in tetrahydrofuran (50 ml) at −78° C. under a nitrogen atmosphere, which was stirred for 1 hour. N,N-Dimethylformamide (2.3 ml) was added to the mixture slowly, which was stirred for 1 hour while raising the temperature to room temperature. After addition of dilute hydrochloric acid the mixture was stirred at room temperature for 30 minutes. The reaction mixture was neutralized with saturated aqueous sodium bicarbonate solution, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. Sodium borohydride (946 mg) was added slowly to a mixture of the residue, tetrahydrofuran (50 ml) and methanol (50 ml) at room temperature, which was stirred for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain 3-chloro-6-phenyl-2-pyridylmethanol (2.35 g, yield 43%) as pale yellow crystals from the fraction eluted with ethyl acetate-hexane (1:6, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 69–70° C.

reactant | tert-Butyl Lithium | 1.7M, 15 ml | C(C)(C)(C)[Li]
reactant | 5-chloro-2-phenylpyridine | 4.70 g | ClC=1C=CC(=NC1)C1=CC=CC=C1 | C11H8ClN
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N,N-Dimethylformamide | 2.3 ml | CN(C=O)C | C3H7NO
product | 3-chloro-6-phenyl-2-pyridylmethanol | 2.35 g, yield 43% | ClC=1C(=NC(=CC1)C1=CC=CC=C1)CO | C12H10ClNO
